US05234894
Preparation of 1-cyano-1(2,4-dichlorophenyl)-3-[4-(6-chloro-2-benzoxazolyloxy)-phenoxy]-2-butanone (Compound No. 176)
2.70 Grams of a potassium salt of 4-(6-chloro-2-benzoxazolyloxy)phenol and 2.48 g of 1-cyano-1-(2,4-dichlorophenyl)-3-chloro-2-butanone were refluxed in 50 ml of N,N-dimethylformamide under heat at 100° C. for 4 hours. The reaction mixture was added to water, and after the mixture was subjected to extraction with chloroform, the extract was concentrated. The residue was separated and purified by column chromatography to give 2.05 g of a compound No. 176 which was a light yellow solid (melting point 93°-94° C.). The yield was 46.9%. The compound No. 176 was analyzed, and the results are shown in Tables 1 to 23.

reactant | potassium | [K] | K
reactant | 4-(6-chloro-2-benzoxazolyloxy)phenol | ClC1=CC2=C(N=C(O2)OC2=CC=C(C=C2)O)C=C1 | C13H8ClNO3
reactant | 1-cyano-1-(2,4-dichlorophenyl)-3-chloro-2-butanone | 2.48 g | C(#N)C(C(C(C)Cl)=O)C1=C(C=C(C=C1)Cl)Cl | C11H8Cl3NO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-cyano-1(2,4-dichlorophenyl)-3-[4-(6-chloro-2-benzoxazolyloxy)-phenoxy]-2-butanone | 2.05 g, yield was 46.9% | C(#N)C(C(C(C)OC1=CC=C(C=C1)OC=1OC2=C(N1)C=CC(=C2)Cl)=O)C2=C(C=C(C=C2)Cl)Cl | C24H15Cl3N2O4
